US06355799B1
To a suspension of sodium hydride (60% dispersion in oil, 2.5 g) in anhydrous N,N-dimethylformamide (100 ml) was added dropwise a solution of ethyl-3-amino-4,4,4-trifluorocrotonate in toluene (50 ml) at 0° C. under nitrogen atmosphere. After addition, the mixture was stirred for 20 min at same temperature, then cooled to −30° C. A solution of (4-chloro-2-nitrophenyl)isocyanate in toluene (50 ml) was added dropwise. After stirring for 20 min, the cold bath was removed and the resulting mixture was stirred overnight at ambient temperature. The reaction mixture was partitioned between ethyl acetate and 1N-hydrochloric acid. The organic phase was washed with brine (×2) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel eluted with ethyl acetate and hexane (1:1) to afford 3-(4-chloro-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (10.2 g) as a yellow solid.

reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | ethyl-3-amino-4,4,4-trifluorocrotonate | C(C)OC(\C=C(\C(F)(F)F)/N)=O | C6H8F3NO2
reactant | (4-chloro-2-nitrophenyl)isocyanate | ClC1=CC(=C(C=C1)N=C=O)[N+](=O)[O-] | C7H3ClN2O3
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chloro-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 10.2 g | ClC1=CC(=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-] | C11H5ClF3N3O4
